US05843983
7(a) (2R,4R)-1-t-Butoxycarbonyl-4-t-butyldimethylsilyloxy-2-[2-{2-[2-(3,4-difluorophenyl)ethyl]-4-fluorophenoxy}ethyl]pyrrolidine
400 mg of 2-[2-(3,4-difluorophenyl)ethyl]-4-fluorophenol (prepared as described in Preparation 7), 690 mg of (2S,4R)-2-(2-bromoethyl)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxypyrrolidine and 208 mg of potassium t-butoxide were allowed to react together in 5 ml of N,N-dimethylacetamide and extracted in the same manner as described in step (a) of Example 2. The resulting oily substance was purified by silica gel column chromatography, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 580 mg (yield 63%) of the title compound as a colorless oily substance.

reactant | 2-[2-(3,4-difluorophenyl)ethyl]-4-fluorophenol | 400 mg | FC=1C=C(C=CC1F)CCC1=C(C=CC(=C1)F)O | C14H11F3O
reactant | (2S,4R)-2-(2-bromoethyl)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxypyrrolidine | 690 mg | BrCC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C17H34BrNO3Si
reactant | potassium t-butoxide | 208 mg | CC(C)([O-])C.[K+]
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | (2R,4R)-1-t-Butoxycarbonyl-4-t-butyldimethylsilyloxy-2-[2-{2-[2-(3,4-difluorophenyl)ethyl]-4-fluorophenoxy}ethyl]pyrrolidine | 580 mg, yield 63% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCOC1=C(C=C(C=C1)F)CCC1=CC(=C(C=C1)F)F | C31H44F3NO4Si
